US07605158B2
Monomethyl adipate (2.55 g) is dissolved in chloroform (35 ml) and there to are added thionyl chloride (1.25 ml) and N,N-dimethylformamide (2 drops) at room temperature. The mixture is stirred at the same temperature for 3 hours and 20 minutes, and thereto are added 3-amino-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide (3.50 g) obtained in Reference Example 80 and pyridine (5.0 ml). After stirring for 14.5 hours at room temperature, a saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution, and the mixture is extracted with chloroform. The organic layer is washed with saturated brine, dried over sodium sulfate, and evaporated to remove the solvent under reduced pressure. The resulting residue is suspended in diisopropyl ether and the precipitates are collected by filtration to give methyl 6-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}benzofuran-3-yl)amino]-6-oxohexanoate (4.72 g).

reactant | Monomethyl adipate | 2.55 g | C(CCCCC(=O)[O-])(=O)OC
reactant | thionyl chloride | 1.25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide | 3.50 g | NC1=C(OC2=C1C=CC=C2)C(=O)NC2=NC=C(C=C2)Cl | C14H10ClN3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | methyl 6-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}benzofuran-3-yl)amino]-6-oxohexanoate | 4.72 g | ClC=1C=CC(=NC1)NC(=O)C=1OC2=C(C1NC(CCCCC(=O)OC)=O)C=CC=C2 | C21H20ClN3O5
